US07244725B2
B.3. 6-bromo-2,3-dihydroquinolin-4(1H)-one
To a solution of 2,3-dihydroquinolin-4(1H)-one (2.94 g) in dichloromethane (25 mL) was added N-bromosuccinimide (3.63 g). The mixture was stirred at room temperature for 1.5 h and was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer was washed with brine, dried with sodium sulfate, filtered, and concentrated. The concentrate was chromatographed on silica gel using a 35% ethyl acetate in heptane solvent solution and gave 4.14 g of the title compound. MS (ESI−) for C9H8BrNO m/z 225.77 (M−H)−.

reactant | 2,3-dihydroquinolin-4(1H)-one | 2.94 g | N1CCC(C2=CC=CC=C12)=O | C9H9NO
reactant | N-bromosuccinimide | 3.63 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 6-bromo-2,3-dihydroquinolin-4(1H)-one | 4.14 g | BrC=1C=C2C(CCNC2=CC1)=O | C9H8BrNO
